* pipeline2.0 netlist
* circuit: b06

Vbattery2_1 N002 0 DC 9
Rbreaker3_1 N003 0 8
Ddiode7_1 N001 N004 D_GENERIC
Linductor10_1 N001 0 0.00022
Qnpn_transistor18_1 N006 N005 0 2N3904
Xoperational_amplifier19_1 N010 0 N007 0 N009 LM386_SIMPLE
Cpolarized_capacitor20_1 N001 0 365p
Cpolarized_capacitor20_2 N004 0 100n
Cpolarized_capacitor20_3 N004 N005 100n
Cpolarized_capacitor20_4 N006 N010 100n
Cpolarized_capacitor20_5 N009 N003 220u
Cpolarized_capacitor20_6 N007 0 100u
Rresistor22_1 N005 N006 100k
Rresistor22_2 N007 N006 10k
Rresistor22_3 N010 0 10k
Rswitch25_1 N007 N002 1m

.model 2N3904 NPN(IS=6.734f BF=416.4 VAF=74.03 IKF=66.78m ISE=6.734f NE=1.259 BR=0.7371 VAR=12.11 IKR=0.0 ISC=0.0 NC=2 RB=10 RC=1 RE=0.1 CJE=4.493p VJE=0.75 MJE=0.2593 CJC=3.638p VJC=0.75 MJC=0.3085 TF=301.2p TR=239.5n)
.model D_GENERIC D
.subckt LM386_SIMPLE INP INM VCC VEE OUT
RIN INP INM 50k
EAMP NAMP VEE INP INM 20
ROUT NAMP OUT 5
RBLEED VCC VEE 100k
.ends LM386_SIMPLE

VSCENARIO_SUPPLY_N005_0 N005 0 SIN(0.660106 5m 1000)
.op
.save all
.tran 1us 5ms

.control
set wr_singlescale
set wr_vecnames
save all @ddiode7_1[id]
run
wrdata 08_tran.csv time v(N001) v(N002) v(N003) v(N004) v(N005) v(N006) v(N007) v(N009) v(N010) @ddiode7_1[id]
.endc
.end
